US07348438B2
5,6-Dichloro-1-(2-nitro-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (319 mg) in DMF (5 mL) was added potassium carbonate powder (491 mg) I) and 2-nitrobenzyl bromide (768 mg). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (5%-35% EtOAc/hexanes), followed by dissolution in CH2Cl2 and trituration with hexanes to yield the title compound as orange solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 319 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 491 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-nitrobenzyl bromide | 768 mg | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-1-(2-nitro-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=C(C=CC=C2)[N+](=O)[O-])C=C1Cl | C16H10Cl2F3N3O2
